US08735424B2
A solution of 6-(6-(2,6-difluorophenyl)pyridin-2-yl)quinolin-4-ol (1.0 equiv.), diisopropylethylamine (2.0 equiv.), and 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide (1.5 equiv.) in NMP (0.23 M) was stirred for 72 hours. The solution was partitioned between EtOAc and Na2CO(sat.). Upon separation, the organic layer was washed further with Na2CO3(sat.) and NaCl(sat.), dried over MgSO4, concentrated and purified by silica gel chromatography (25-35% EtOAc/hexanes eluant) to yield 6-(6-(2,6-difluorophenyl)pyridin-2-yl)quinolin-4-yl trifluoromethanesulfonate (72%). LC/MS=467.0 (M+H), LC=5.13 min.

reactant | 6-(6-(2,6-difluorophenyl)pyridin-2-yl)quinolin-4-ol | 1.0 equiv. | FC1=C(C(=CC=C1)F)C1=CC=CC(=N1)C=1C=C2C(=CC=NC2=CC1)O | C20H12F2N2O
reactant | diisopropylethylamine | 2.0 equiv. | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide | 1.5 equiv. | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=CC=CC=C1)(F)F | C8H5F6NO4S2
solvent | NMP | 0.23 M | CN1CCCC1=O | C5H9NO
product | 6-(6-(2,6-difluorophenyl)pyridin-2-yl)quinolin-4-yl trifluoromethanesulfonate | 72% | FC(S(=O)(=O)OC1=CC=NC2=CC=C(C=C12)C1=NC(=CC=C1)C1=C(C=CC=C1F)F)(F)F | C21H11F5N2O3S
